US07763608B2
To a suspension of (1-(3-fluoro-4-iodophenyl)-1H-imidazol-4-yl)methanol (0.39 g, 1.23 mmol) in CH3CN (7 mL), SOCl2 (2.5 mL) was added. Upon the addition, the suspension became clear. It was then concentrated in vacuo. The residue was dissolved in DMF (7 mL), NaN3 (0.32 g, 4.92 mmol) was added. The mixture was stirred at room temperature overnight. H2O and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was dissolved in MeOH (6 mL), Ra—Ni (50% slurry in H2O, ˜200 mg) was added. The mixture was hydrogenated under balloon H2 for 2 h. It was then filtered through celite. The filtrate was concentrated in vacuo to give (1-(3-fluoro-4-iodophenyl)-1H-imidazol-4-yl)methanamine as a solid (0.268 g).

reactant | (1-(3-fluoro-4-iodophenyl)-1H-imidazol-4-yl)methanol | 1.23 mmol, 0.39 g | FC=1C=C(C=CC1I)N1C=NC(=C1)CO | C10H8FIN2O
reactant | NaN3 | 4.92 mmol, 0.32 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 7 mL | CC#N | C2H3N
solvent | SOCl2 | 2.5 mL | O=S(Cl)Cl | Cl2OS
product | (1-(3-fluoro-4-iodophenyl)-1H-imidazol-4-yl)methanamine | 0.268 g | FC=1C=C(C=CC1I)N1C=NC(=C1)CN | C10H9FIN3
